US05880157
N-Methyl-2,2,3,3-tetramethylcyclopropanecarboxamide.
A solution of 2,2,3,3-tetramethylcyclopropanecarbonyl chloride (16.05 g, 0.1 mole) in the THF (50 ml) was added slowly to 35% aqueous methyl amine (200 ml). The reaction mixture was stirred for 24 hours at room temperature, and, after removal of THF under reduced pressure, was extracted with CH2Cl2 (2×50 ml). The CH2Cl2 extract was washed successively with H2O (2×100 ml), 0.3 N HCl (200 ml), 0.1 NaHCO3 (100 ml) and saturated NaCl (150 ml), dried over MgSO4 and evaporated to dryness under reduced pressure. The crude product was treated with hexane (100 ml) at room temperature for 30 minutes, filtered and dried to afford 10.5 g (68 mmole, 68%) of a white solid, m.p.: 98° C.

reactant | 2,2,3,3-tetramethylcyclopropanecarbonyl chloride | 0.1 mole, 16.05 g | CC1(C(C1(C)C)C(=O)Cl)C | C8H13ClO
reactant | methyl amine | 200 ml | CN | CH5N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-Methyl-2,2,3,3-tetramethylcyclopropanecarboxamide | 68 mmole, 10.5 g, 68% | CNC(=O)C1C(C1(C)C)(C)C | C9H17NO
